US07595320B2
Ethyl 3-[4-(4-methylpiperazin-1-yl)benzoylamino]-1H-thieno[2,3-c]pyrazole-5-carboxylate (0.5 g, 1.03 mmol, 1 eq.) and ethanol (2 mL) are placed in a 15 mL round-bottomed flask, and a 1 M hydrazine solution (3.09 mL, 3.09 mmol) and 2 mL of hydrazine monohydrate are added. The reaction mixture is stirred at reflux for 5 hours, the solvent is then evaporated off and the residue is taken up in water. The white precipitate is filtered off, washed with water and then dried at a temperature in the region of 80° C. under vacuum. N-(5-Hydrazinocarbonyl-1H-thieno[2,3-c]pyrazol-3-yl)-4-(4-methylpiperazin-1-yl)benzamide (0.15 g, 49%), Rf=0.32 (methanol/dichloromethane 10/90 (v/v)) is thus obtained, which product is used directly in the following step. Ethyl 3-[4-(4-methylpiperazin-1-yl)benzoylamino]-1H-thieno[2,3-c]pyrazole-5-carboxylate may be obtained by deprotection of ethyl 1-(1-ethoxyethyl)-3-[4-(4-methylpiperazin-1-yl)benzoylamino]-1H-thieno[2,3-c]pyrazole-5-carboxylate according to example 28.

reactant | Ethyl 3-[4-(4-methylpiperazin-1-yl)benzoylamino]-1H-thieno[2,3-c]pyrazole-5-carboxylate | 1.03 mmol, 0.5 g, 1 eq. | CN1CCN(CC1)C1=CC=C(C(=O)NC=2C3=C(NN2)SC(=C3)C(=O)OCC)C=C1 | C20H23N5O3S
reactant | hydrazine | 3.09 mmol, 1 M, 3.09 mL | NN | H4N2
reactant | hydrazine monohydrate | 2 mL | O.NN
solvent | ethanol | 2 mL | C(C)O | C2H6O
product | N-(5-Hydrazinocarbonyl-1H-thieno[2,3-c]pyrazol-3-yl)-4-(4-methylpiperazin-1-yl)benzamide | 0.15 g, 49% | N(N)C(=O)C1=CC2=C(NN=C2NC(C2=CC=C(C=C2)N2CCN(CC2)C)=O)S1 | C18H21N7O2S
